US08471027B2
A 1 L round-bottomed flask equipped with a magnetic stir bar, a water cooled reflux condenser, a nitrogen bubbler and a thermometer was charged with 4-[3-(4-chloro-2-phenylamino-phenyl)-3-oxo-propyl]-benzoic acid methyl ester (54 g, 137 mmol), toluene (2 L, 18.8 mol) and methyl 2-chloro-2-oxoacetate (200 mL, 2.17 mol). The resulting mixture was heated to reflux overnight. At this time, the reaction mixture was concentrated to a thick gum. This residue was dissolved in methanol (1 L), treated with potassium carbonate (31 g) and stirred overnight. At this time, the reaction was filtered to remove solids. The filtrate was treated with acetic acid (50 mL) and then concentrated in vacuo. The residue was absorbed onto silica gel. Flash chromatography (2″×6″ column; 50-66% ethyl acetate/hexanes) followed by concentration of the appropriate fractions produced a solid. This solid was slurried with 1:1 ethyl acetate/hexanes, collected by filtration and dried in vacuo to afford 7-chloro-3-(4-methoxycarbonyl-benzyl)-4-oxo-1-phenyl-1,4-dihydro-quinoline-2-carboxylic acid methyl ester (34 g, 53.7%) as an off-white solid. This material was used without further purification.

reactant | 4-[3-(4-chloro-2-phenylamino-phenyl)-3-oxo-propyl]-benzoic acid methyl ester | 137 mmol, 54 g | COC(C1=CC=C(C=C1)CCC(=O)C1=C(C=C(C=C1)Cl)NC1=CC=CC=C1)=O | C23H20ClNO3
reactant | toluene | 18.8 mol, 2 L | C1(=CC=CC=C1)C | C7H8
reactant | methyl 2-chloro-2-oxoacetate | 2.17 mol, 200 mL | ClC(C(=O)OC)=O | C3H3ClO3
solvent | water | O | H2O
product | 7-chloro-3-(4-methoxycarbonyl-benzyl)-4-oxo-1-phenyl-1,4-dihydro-quinoline-2-carboxylic acid methyl ester | 34 g, 53.7% | COC(=O)C=1N(C2=CC(=CC=C2C(C1CC1=CC=C(C=C1)C(=O)OC)=O)Cl)C1=CC=CC=C1 | C26H20ClNO5
